US07691882B2
2-(4-Bromo-2-fluoro-phenyl)-[1,3]dioxolane
A mixture of 4-bromo-2-fluorobenzaldehyde (10 g, 49.3 mmol), ethylene glycol (27.5 mL, 493 mmol), camphorsulfonic acid (115 mg, 0.493 mmol), and toluene (250 mL) was stirred for 5 hours under reflux. The mixture was cooled to room temperature and a saturated sodium hydrogencarbonate aqueous solution was added thereto. The organic layer was separated, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure to obtain the title compound (12.5 g). The title compound was used in the following reaction without any further purification.

reactant | 4-bromo-2-fluorobenzaldehyde | 49.3 mmol, 10 g | BrC1=CC(=C(C=O)C=C1)F | C7H4BrFO
reactant | ethylene glycol | 493 mmol, 27.5 mL | C(CO)O | C2H6O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
catalyst | camphorsulfonic acid | 0.493 mmol, 115 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Bromo-2-fluoro-phenyl)-[1,3]dioxolane | 12.5 g | BrC1=CC(=C(C=C1)C1OCCO1)F | C9H8BrFO2
